US04009187
A. 8-(5-dimethoxymethyl-2-furyl)-octanoic acid methyl ester
32.8 g of 8-(5-formyl-2-furyl)-octanoic acid methyl ester, 15.5 g of trimethyl orthoformate, 16 ml of methanol and 0.3 g of ammonium chloride were mixed and refluxed for 4 hours. The solution was concentrated to dryness on a water bath. The residue was then absorbed in ether, washed with water, dried and distilled. Boiling point 136°-138° C at 0.2 mm Hg.

reactant | 8-(5-formyl-2-furyl)-octanoic acid methyl ester | 32.8 g | COC(CCCCCCCC=1OC(=CC1)C=O)=O | C14H20O4
reactant | trimethyl orthoformate | 15.5 g | C(OC)(OC)OC | C4H10O3
reactant | ammonium chloride | 0.3 g | [Cl-].[NH4+]
solvent | methanol | 16 ml | CO | CH4O
product | 8-(5-dimethoxymethyl-2-furyl)-octanoic acid methyl ester | COC(CCCCCCCC=1OC(=CC1)C(OC)OC)=O | C16H26O5
